US06489440B1
To a stirred solution of 3-(4′-heptyloxybiphenyl-4-yl)acrylic acid ethyl ester (2.65 g, 7.23 mmol) in CH2Cl2 (60 ml) was added palladium on activated carbon (Pd ca.10 wt %, 1.07 g), and then the mixture was set under H2 atmosphere. After being stirred for 2 h, the mixture was filtered through a pad of Celite and washed with CH2Cl2. Filtrate and washings were combined and concentrated in vacuo to give 3-(4′-heptyloxybiphenyl-4-yl)propionic acid ethyl ester (crude, 2.74 g) which was used for the next step without further purification.

reactant | 3-(4′-heptyloxybiphenyl-4-yl)acrylic acid ethyl ester | 7.23 mmol, 2.65 g | C(C)OC(C=CC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC)=O | C24H30O3
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium on activated carbon | 1.07 g | [Pd] | Pd
product | 3-(4′-heptyloxybiphenyl-4-yl)propionic acid ethyl ester | 2.74 g | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC)=O | C24H32O3
